US07662771B2
5-[5-(2-hydroxy-phenyl)-[1,2,3]triazol-1-yl]-pentanoic acid disodium salt
Add a solution of NaOH (0.66 g, 16.53 mmol) in water (3 mL) to a suspension of 5-[5-(2-methoxy-phenyl)-[1,2,3]triazol-1-yl]-pentanoic acid (2.16 g, 8.27 mmol) and heat to 50° C. for 1 hour. Concentrate and dry in 50° C. vacuum oven overnight. Add Et2O, sonicate and filter out solids. Dry solids in 50° C. vacuum oven overnight (as solids are highly hygroscopic) to afford the title compound (2.0 g, 79%). MS (IS) 262 (M+1)+.

reactant | NaOH | 16.53 mmol, 0.66 g | [OH-].[Na+]
reactant | 5-[5-(2-methoxy-phenyl)-[1,2,3]triazol-1-yl]-pentanoic acid | 8.27 mmol, 2.16 g | COC1=C(C=CC=C1)C1=CN=NN1CCCCC(=O)O | C14H17N3O3
solvent | water | 3 mL | O | H2O
product | 5-[5-(2-hydroxy-phenyl)-[1,2,3]triazol-1-yl]-pentanoic acid disodium salt | 2.0 g, 79% | [Na+].[Na+].OC1=C(C=CC=C1)C1=CN=NN1CCCCC(=O)[O-].OC1=C(C=CC=C1)C1=CN=NN1CCCCC(=O)[O-] | InChI=1S/2C13H15N3O3.2Na/c2*17-12-6-2-1-5-10(12)11-9-14-15-16(11)8-4-3-7-13(18)19;;/h2*1-2,5-6,9,17H,3-4,7-8H2,(H,18,19);;/q;;2*+1/p-2
